US05556979
Cyclohexane/acetone (4:1) 1H-NMR (CDCl3): δ=6.05-6.43 (m, 2H, H on C-3 and C-4); 5.68 (dd, 1H, H on C-2, J=14 and 6 Hz); 5.17 (dd, 1H, Ha on C-5, J=16 Hz); 5.07 (dd, 1H, Hb on C-5, J=10 Hz); 4.75 (br, 1H, NH); 3.77 (t, 2H, H on C-1); 1.45 ppm (s, 9H).
Initially introduce 83.2 g (1.0 mol) of (E)-1-amino-2,4-pentadiene (title compound from Example B.2.) in 250 ml of THF, and add 0.1 g of 4-hydroxyanisole. Subsequently, at an internal temperature of 20°-30° C., add 229.2 g (1.05 mol) of di-tert-butyl dicarbonate dissolved in 250 ml of THF dropwise. After addition is complete, stir at room temperature for 20 h. Add 103.0 g (1.05 mol) of maleic anhydride, and heat to reflux for 5 h. Concentrate and take up the residue in 500 ml of methanol, add 30 ml of p-toluenesulphonic acid, and then heat once again to reflux for 5 h. After cooling with ice, and stirring, rapidly add a solution of 20 g of sodium carbonate dissolved in 500 ml of water dropwise, allow the mixture to stand for a further 30 min in an ice bath, and filter off the precipitate with suction, wash it with a little water, and dry it at 50° C. to constant weight.

reactant | (E)-1-amino-2,4-pentadiene | 1.0 mol, 83.2 g | NC\C=C\C=C | C5H9N
reactant | THF | 250 ml | C1CCOC1 | C4H8O
product | Cyclohexane acetone | C1CCCCC1.CC(=O)C | InChI=1S/C6H12.C3H6O/c1-2-4-6-5-3-1;1-3(2)4/h1-6H2;1-2H3
